US05587379
Step C Synthesis of 2,4-diamino-5-[3-(4-methoxyphenyl)-propyl]pyrimidine
This compound was prepared in a manner analogous to that of Example 2, Step E, using 0.8 gram (0.003 mole) of 1-ethoxy-2-cyano-5-(4-methoxyphenyl)-1-pentene, 1.3 grams (0.012 mole) of guanidine hydrochloride, and 2.7 grams (0.018 mole) of potassium carbonate in 15 mL of N,N-dimethylformamide. The yield of 1,4-diamino-5-[3-(4-methoxyphenyl)propyl]pyrimidine was 0.5 gram, mp 151°-154° C. The NMR spectrum was consistent with the proposed structure.

reactant | 1-ethoxy-2-cyano-5-(4-methoxyphenyl)-1-pentene | 0.003 mole, 0.8 gram | C(C)OC=C(CCCC1=CC=C(C=C1)OC)C#N | C15H19NO2
reactant | guanidine hydrochloride | 0.012 mole, 1.3 grams | Cl.NC(=N)N
reactant | potassium carbonate | 0.018 mole, 2.7 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-diamino-5-[3-(4-methoxyphenyl)propyl]pyrimidine | NN1CN=C(C(=C1)CCCC1=CC=C(C=C1)OC)N | C14H20N4O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 2,4-diamino-5-[3-(4-methoxyphenyl)-propyl]pyrimidine | NC1=NC=C(C(=N1)N)CCCC1=CC=C(C=C1)OC | C14H18N4O
